US06743816B2
4-Methylsulfonylaniline
67 mg of Na2WO4, 8 drops of acetic acid and 19 mL of H2O were introduced into a flask and heated to 65° C. Then, 19 mL (153 mmol) of 4-methylthioaniline was added followed by the dropwise addition of 34.5 mL (337 mmol) of H2O2. The mixture was stirred at 65° C. for 1.5 h and, after cooling, 800 mL of 1N HC and 500 mL of CHCl3 was added. The layers were separated and the aqueous phase was washed with more CHCl3. The aqueous phase was then basified with 25% NaOH and extracted with CHCl3. The organic phase was washed with brine and dried over MgSO4. The solvent was removed, yielding 19.80 g of the product as a white solid (75% yield).

reactant | H2O | 19 mL | O | H2O
reactant | 4-methylthioaniline | 153 mmol, 19 mL | CSC1=CC=C(N)C=C1 | C7H9NS
reactant | H2O2 | 337 mmol, 34.5 mL | OO | H2O2
catalyst | acetic acid | 8 drops | C(C)(=O)O | C2H4O2
solvent | CHCl3 | 500 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-Methylsulfonylaniline | 19.80 g, 75% yield | CS(=O)(=O)C1=CC=C(N)C=C1 | C7H9NO2S
